US06166006
Under argon atmosphere, a solution of methyl (E)-3-(5-bromothiophen-2-yl)acrylate (0.23 g), 4-tert-butylphenyl borate (0.3 g) and potassium carbonate (0.26 g) in toluene/ethanol/water (20/2/2 ml) was stirred at room temperature for 1 hour. To the mixture was added tetrakistriphenylphosphine palladium (32 mg), and the mixture was refluxed for 18 hours and then cooled to room temperature. To the organic layer was added ethyl acetate, and the mixture was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the residue was purified with column chromatography (ethyl acetate/hexane=1:9) to give pale yellow crystals of methyl (E)-3-[5-(4-tert-butylphenyl)thiophen-2-yl]acrylate (240 mg). This compound was used for the following reaction, without subjecting further purification.

reactant | methyl (E)-3-(5-bromothiophen-2-yl)acrylate | 0.23 g | BrC1=CC=C(S1)/C=C/C(=O)OC | C8H7BrO2S
reactant | 4-tert-butylphenyl borate | 0.3 g | B(OC1=CC=C(C=C1)C(C)(C)C)([O-])[O-]
reactant | potassium carbonate | 0.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene ethanol water | 2 ml | C1(=CC=CC=C1)C.C(C)O.O
product | methyl (E)-3-[5-(4-tert-butylphenyl)thiophen-2-yl]acrylate | 240 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(S1)/C=C/C(=O)OC | C18H20O2S
